US07026326B2
6-[1-(2-Hydroxy-propyl)-pyrrolidin-3-yl]-1-methyl-3-naphthalen-2-yl-1H-[4,4′]bipyridinyl-2-one
To a solution of 1-methyl-3-naphthalen-2-yl-6-pyrrolidin-3-yl-1H-[4,4′]bipyridinyl-2-one (prepared following the same method as described for 1′-methyl-5′-naphthalen-2-yl-1,2,3,4,5,6-hexahydro-1′H-[4,2′;4′,4″]terpyridin-6′-one, Scheme 12) (0.5 g, 1.3 mmol) in dry DMF (5 mL) was added 2-methyl-oxirane (2.6 mmol, 150 mg) and then heated at 80° C. for 5 h. After cooling down to RT the solvent was removed under vacuum and the residue was purified by flash chromatography (2%, 2M methanol ammonia in DCM) to obtain the title compound (150 mg, 26%) as a yellow solid. MS (ES+): 440 (M+H)+.

reactant | 1-methyl-3-naphthalen-2-yl-6-pyrrolidin-3-yl-1H-[4,4′]bipyridinyl-2-one | CN1C(C(=C(C=C1C1CNCC1)C1=CC=NC=C1)C1=CC2=CC=CC=C2C=C1)=O | C25H23N3O
reactant | 1′-methyl-5′-naphthalen-2-yl-1,2,3,4,5,6-hexahydro-1′H-[4,2′;4′,4″]terpyridin-6′-one | CN1C(=CC(=C(C1=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1)C1CCNCC1 | C26H25N3O
reactant | 2-methyl-oxirane | 2.6 mmol, 150 mg | CC1OC1 | C3H6O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-[1-(2-Hydroxy-propyl)-pyrrolidin-3-yl]-1-methyl-3-naphthalen-2-yl-1H-[4,4′]bipyridinyl-2-one | 150 mg, 26% | OC(CN1CC(CC1)C1=CC(=C(C(N1C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1)C | C28H29N3O2
